* Hello
.include logic.lib
.subckt 4081B A1 B1 Y1 Y2 A2 B2 VSS A3 B3 Y3 Y4 A4 B4 VDD
XAND1 A1 B1 Y1 VDD VSS T_AND
XAND2 A2 B2 Y2 VDD VSS T_AND
XAND3 A3 B3 Y3 VDD VSS T_AND
XAND4 A4 B4 Y4 VDD VSS T_AND
.ends 4081B


.subckt nand3x3 A1 B1 A2 B2 C2 Y2 VSS C1 Y1 Y3 A3 B3 C3 VDD
XNAND3_1 A1 B1 C1 Y1 VDD VSS T_NAND3
XNAND3_2 A2 B2 C2 Y2 VDD VSS T_NAND3
XNAND3_3 A3 B3 C3 Y3 VDD VSS T_NAND3
.ends nand3x3

.subckt D_flip_flop_setbar_resetbar resetbar setbar data clock q qbar VDD GND
XU2 conn1 clock conn2 clock conn3 conn4 GND reset conn2 conn3 conn4 data reset set nand3x3
XU1 set conn2 out conn4 reset out2 GND out2 out conn1 set conn3 conn2 set nand3x3
.ends D_flip_flop_setbar_resetbar

* D Flip-Flop with Set and Reset flipped using NOT gates
.subckt D_flip_flop_set_reset set reset data clock q qbar VDD VSS

* Inverting set and reset inputs
XNOT_set set set_inverted VDD VSS T_NOT
XNOT_reset reset reset_inverted VDD VSS T_NOT
XDF_flip_flop set_inverted reset_inverted data clock q qbar VDD VSS D_flip_flop_setbar_resetbar

.ends D_flip_flop_set_reset

.subckt CD4013Bm Q1 Q1N CLOCK1 RESET1 D1 SET1 VSS SET2 D2 RESET2 CLOCK2 Q2N Q2 VDD

* First D flip-flop instance
XDFF1 SET1 RESET1 D1 CLOCK1 Q1 Q1N VDD VSS D_flip_flop_set_reset

* Second D flip-flop instance
XDFF2 SET2 RESET2 D2 CLOCK2 Q2 Q2N VDD VSS D_flip_flop_set_reset

.ends CD4013Bm


