* Hello
.include logic.lib
.subckt 4081B A1 B1 Y1 Y2 A2 B2 VSS A3 B3 Y3 Y4 A4 B4 VDD
XAND1 A1 B1 Y1 VDD VSS T_AND
XAND2 A2 B2 Y2 VDD VSS T_AND
XAND3 A3 B3 Y3 VDD VSS T_AND
XAND4 A4 B4 Y4 VDD VSS T_AND
.ends 4081B

* Simple generic model for a single-pole OpAmp
* Parameters are pole frequency, gain, offset, output resistance.
* The output is limited to the supply voltage.
* Author Holger Vogt, Public Domain
.subckt kicad_builtin_opamp in+ in- vcc vee out params: POLE=20 GAIN=20k VOFF=10m ROUT=10
* add offset voltage
  Voff in+ inoff dc {VOFF}
* gain stage with RC pole
  G10 0 int inoff in- 100u
  R1 int 0 {GAIN/100u}
  C1 int 0 {1/(6.28*(GAIN/100u)*POLE)}
* output decoupling, output resistance
  Eout 2 0 int 0 1
  Rout 2 out {ROUT}
* output limited to vee, vcc
  Elow lee 0 vee 0 1
  Ehigh lcc 0 vcc 0 1
  Dlow lee int Dlimit
  Dhigh int lcc Dlimit
  .model Dlimit D N=0.01
*
.ends

.subckt comphalf opampin opampout VCC VSS
* always 1/2
R2 inner1 VSS 10k
R1 VCC inner1 10k
XU6 opampin inner1 VCC VSS opampout kicad_builtin_opamp POLE=100 %it has to be fast fast
.ends comphalf

.subckt nand3x3 A1 B1 A2 B2 C2 Y2 VSS C1 Y1 Y3 A3 B3 C3 VDD
XNAND3_1 A1 B1 C1 Y1 VDD VSS T_NAND3
XNAND3_2 A2 B2 C2 Y2 VDD VSS T_NAND3
XNAND3_3 A3 B3 C3 Y3 VDD VSS T_NAND3
.ends nand3x3

.subckt D_flip_flop_setbar_resetbar resetbar setbar data clock q qbar VDD VSS
XU2 conn1 clock conn2 clock conn3 conn4 VSS resetbar conn2 conn3 conn4 data resetbar VDD nand3x3
XU1 setbar conn2 q conn4 resetbar qbar VSS qbar q conn1 setbar conn3 conn2 VDD nand3x3
.ends D_flip_flop_setbar_resetbar

* D Flip-Flop with Set and Reset flipped using NOT gates
.subckt D_flip_flop_set_reset set reset data clock q qbar VDD VSS

XNOT_set set set_inverted VDD VSS T_NOT
XNOT_reset reset reset_inverted VDD VSS T_NOT
XDF_flip_flop set_inverted reset_inverted data clock q qbar VDD VSS D_flip_flop_setbar_resetbar

.ends D_flip_flop_set_reset

.subckt CD4013Bm Q1 Q1N CLOCK1 RESET1 D1 SET1 VSS SET2 D2 RESET2 CLOCK2 Q2N Q2 VDD

XDFF1 RESET1 SET1 D1 CLOCK1 _Q1 _Q1N VDD VSS D_flip_flop_set_reset
XDFF2 RESET2 SET2 D2 CLOCK2 _Q2 _Q2N VDD VSS D_flip_flop_set_reset
XCOMP1 _Q1 Q1 VDD VSS comphalf
XCOMP2 _Q1N Q1N VDD VSS comphalf
XCOMP3 _Q2 Q2 VDD VSS comphalf
XCOMP4 _Q2N Q2N VDD VSS comphalf
.ends CD4013Bm

